US05039805
1.43 g of N-[m-[7-(1-t-butoxyformamido)heptanamido]benzoyl]-β-alanine benzyl ester and 476 mg of Pd/C are stirred in 28 ml of formic acid for 5 hours under hydrogen. The reaction mixture is filtered and the filtrate is evaporated in a vacuum. The residue is taken up in water and evaporated. 464 mg of N-[m-(7-aminoheptanamido)benzoyl]-β-alanine, m.p. 236° C., are obtained from methanol.

reactant | N-[m-[7-(1-t-butoxyformamido)heptanamido]benzoyl]-β-alanine benzyl ester | 1.43 g | C(C1=CC=CC=C1)OC(CCNC(C1=CC(=CC=C1)NC(CCCCCCNC(=O)OC(C)(C)C)=O)=O)=O | C29H39N3O6
solvent | formic acid | 28 ml | C(=O)O | CH2O2
catalyst | Pd/C | 476 mg | [Pd] | Pd
product | N-[m-(7-aminoheptanamido)benzoyl]-β-alanine | 464 mg | NCCCCCCC(=O)NC=1C=C(C(=O)NCCC(=O)O)C=CC1 | C17H25N3O4
